US08633205B2
Step b: 1-[7-(Toluene-4-sulfonyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-ethanone:
[7.25 g, 21.12 mmol] of 4-(1-Ethoxy-vinyl)-7-(toluene-4-sulfonyl)-7H-pyrrolo[2,3-d]pyrimidine was dissolved in 50 mL each of methanol and THF and stirred with 10 mL of 6N HCL for 4.0 hours at ambient temperature. The solvents were removed under reduced pressure and the residue was partitioned between dichloromethane and saturated sodium hydrogen carbonate solution. The organic fraction was brined and dried with anhydrous sodium sulphate and the solvent was removed under reduced pressure. The crude material was triturated with a mixture of MTBE and petroleum ether (1:4) for several hours and the solid finally isolated via suction filtration and air dried. The 5.95 g of pale yellow material, representing a 89% yield was used without further purification. 1H NMR: 500 Mhz CDCL3 δ9.0(s,1H), 8.08(d,2H, J=8.4 Hz), 7.87(d, 1H, J=4.1 Hz), 7.3(m,3H), 2.8(s,3H), 2.4(s,3H).

reactant | 4-(1-Ethoxy-vinyl)-7-(toluene-4-sulfonyl)-7H-pyrrolo[2,3-d]pyrimidine | 21.12 mmol, 7.25 g | C(C)OC(=C)C=1C2=C(N=CN1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C17H17N3O3S
reactant | THF | C1CCOC1 | C4H8O
solvent | methanol | 50 mL | CO | CH4O
product | 1-[7-(Toluene-4-sulfonyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-ethanone | 89% yield | C1(=CC=C(C=C1)S(=O)(=O)N1C=CC2=C1N=CN=C2C(C)=O)C | C15H13N3O3S
